US08685977B2
3-chloro-4-(4-chloro-3-(trifluoromethyl)phenoxy)-2-fluoro-N-(methylsulfonyl)benzamide
3-chloro-4-(4-chloro-3-(trifluoromethyl)phenoxy)-2-fluorobenzoic acid (Preparation 153, 0.133 g, 0.360 mmol) was slurried in dichloromethane (0.6 mL). N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (100 mg, 0.54 mmol), 1-hydroxybenzotriazole (49 mg, 0.36 mmol) and N,N-diisopropylethylamine (75 μL, 0.43 mmol) were added to the slurry. The reaction mixture was stirred 20 minutes then methanesulfonamide (100 mg, 1.1 mmol) was added and the stirring continued for 18 hours at ambient temperature. The solvent was removed in vacuo to leave a residue. The residue was purified by semi-preparative reverse phase HPLC (Phenomenex 100×21.2 mm 10 micron C18 column. 20 mL/minutes. Gradient 85% A to 100% B over 25 minutes. Solvent A: 7800 water/200 acetonitrile/8 trifluoroacetic acid. Solvent B: 7200 acetonitrile/800 water/8 trifluoroacetic acid, 254 nM UV detection) to afford the title compound as a white solid (132 mg).

reactant | 3-chloro-4-(4-chloro-3-(trifluoromethyl)phenoxy)-2-fluorobenzoic acid | 0.360 mmol, 0.133 g | ClC=1C(=C(C(=O)O)C=CC1OC1=CC(=C(C=C1)Cl)C(F)(F)F)F | C14H6Cl2F4O3
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.54 mmol, 100 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.36 mmol, 49 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N-diisopropylethylamine | 0.43 mmol, 75 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonamide | 1.1 mmol, 100 mg | CS(=O)(=O)N | CH5NO2S
solvent | dichloromethane | 0.6 mL | ClCCl | CH2Cl2
product | 3-chloro-4-(4-chloro-3-(trifluoromethyl)phenoxy)-2-fluoro-N-(methylsulfonyl)benzamide | 132 mg | ClC=1C(=C(C(=O)NS(=O)(=O)C)C=CC1OC1=CC(=C(C=C1)Cl)C(F)(F)F)F | C15H9Cl2F4NO4S
